US06727264B1
2-METHYL-N-(3-{1-[(2-METHYL-5-PHENYL-3-FURYL)METHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R using 2-methyl-5-phenyl-3-furaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 417.2 (M+H)+.

reactant | 2-methyl-5-phenyl-3-furaldehyde | CC=1OC(=CC1C=O)C1=CC=CC=C1 | C12H10O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[(2-METHYL-5-PHENYL-3-FURYL)METHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=C(OC(=C1)C1=CC=CC=C1)C)C | C27H32N2O2
